US05411974
Synthesis of (2S)-1-benzoylpyrrolidin-2-al
A solution of (2S)-1-benzoylpyrrolidine-2-methanol (24.1 g) in methylene chloride (120 ml) was added dropiwise to the solution at -70° C. The mixture was stirred for 30 mins. Triethylamine (89.5 ml) was added dropwise to the reaction solution at -70° C. The mixture was stirred for 50 mins at the same temperature, and then rised to 0° C. gradually. Water was added to the solution.

reactant | (2S)-1-benzoylpyrrolidine-2-methanol | 24.1 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CCC1)CO | C12H15NO2
reactant | Triethylamine | 89.5 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | (2S)-1-benzoylpyrrolidin-2-al | C(C1=CC=CC=C1)(=O)N1[C@@H](CCC1)C=O | C12H13NO2
